US07592363B2
Preparation of 2-benzyl-3-(4-methoxy-phenyl)-7-trifluoromethyl-2H-indazole (compound of Formula (I))
To a solution of 3-(4-methoxy-phenyl)-7-trifluoromethyl-1H-indazole (59 mg, 0.2 mmol) in 0.5 ml DMF were added 72 μl of benzyl bromide (0.6 mmol). The reaction mixture was heated overnight at 120° C. After cooling to room temperature, ethyl acetate was added and the solution was washed three times with brine. The organic layer was dried over MgSO4 and concentrated. Column chromatography (n-heptane/ethyl acetate, 70:30 as eluent) afforded 61 mg of pure product.

reactant | 3-(4-methoxy-phenyl)-7-trifluoromethyl-1H-indazole | 0.2 mmol, 59 mg | COC1=CC=C(C=C1)C1=NNC2=C(C=CC=C12)C(F)(F)F | C15H11F3N2O
reactant | benzyl bromide | 0.6 mmol, 72 μl | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
product | 2-benzyl-3-(4-methoxy-phenyl)-7-trifluoromethyl-2H-indazole | 61 mg | C(C1=CC=CC=C1)N1N=C2C(=CC=CC2=C1C1=CC=C(C=C1)OC)C(F)(F)F | C22H17F3N2O
